US07572928B2
(4R)-4-benzyl-3-[(2R,3E)-2-benzyl-5-(trimethylsilyl)pent-3-enoyl]-1,3-oxazolidin-2-one
To a solution of (4R)-4-benzyl-3-[(2R)-2-benzylbut-3-enoyl]-1,3-oxazolidin-2-one (3.42 mmol, 1.10 g) and allyltrimethylsilane (10.26 mmol, 1.63 mL) in DCM (50 mL) at reflux was added 5 mol % of Grubbs' second generation catalyst (145 mg). After 68 hrs the solvent was removed in vacuo. The crude product was purified by column chromatography to yield a white solid. (1.37 g, 95%); 1H NMR (400 MHz, CDCl3): δ=7.0-7.32 (m, 10H), 5.62 (dt, J=8.1, 15.2, 1H), 5.29-5.36 (m, 1H), 4.82 (m, 1H), 4.61 (m, 1H), 4.01-4.15 (m, 2H), 3.22 (dd, J=8.3, 13.4, 1H), 3.02 (dd, J=3.3, 13.3, 1H), 2.85 (dd, J=6.1, 13.4, 1H), 2.57 (dd, J=9.1, 13.4, 1H) 1.42 (d, J=8.1, 1H) −0.08 (s, 9H); 13C NMR (100 MHz, CDCl3): δ=174.2, 138.9, 135.1, 131.6, 129.4, 128.9, 128.3, 127.2, 126.3, 124.9, 65.7, 55.2, 48.2, 38.9, 37.6, 23.1, −2.1; IR (CHCl3): v 3444, 2955, 1767, 1694, 1454, 1393, 1248, 1182 cm−1; MS (CI(NH3)): m/z 422 (M+H+); HMRS required for C25H32NO3Si ([M]+) 422.2158 found 422.2151; [α]D23=117.8° (c, 0.5 CHCl3); Mp 132-135° C.

reactant | (4R)-4-benzyl-3-[(2R)-2-benzylbut-3-enoyl]-1,3-oxazolidin-2-one | 3.42 mmol, 1.10 g | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@@H](C=C)CC1=CC=CC=C1)=O | C21H21NO3
reactant | allyltrimethylsilane | 10.26 mmol, 1.63 mL | C(C=C)[Si](C)(C)C | C6H14Si
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | Grubbs' second generation | 145 mg | Cl[Ru]([P](C1CCCCC1)(C2CCCCC2)C3CCCCC3)(=CC4=CC=CC=C4)(Cl)=C5N(C6=C(C)C=C(C)C=C6C)CCN5C7=C(C)C=C(C)C=C7C
product | (4R)-4-benzyl-3-[(2R,3E)-2-benzyl-5-(trimethylsilyl)pent-3-enoyl]-1,3-oxazolidin-2-one | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@@H](\C=C\C[Si](C)(C)C)CC1=CC=CC=C1)=O | C25H31NO3Si
